US04287131
Aluminum tri(2-n-butoxyethoxide) was prepared by incremental addition of pure aluminum turnings to anhydrous 2-n-butoxyethanol. Accordingly, to a 3-liter flask fitted with condenser, stirrer and inlet for dry N2 2-n-butoxyethanol (944 g, 8.0 moles) was added and heated to a reflux temperature of approximately 160° C. Approximately 5 grams of aluminum turnings were added. Evolution of H2 gas is observed after 2 to 10 hours signifying the reaction has begun. A catalytically effective quantity of HAl(OCH2CH2OBu)4 (prepared in Example 1) added to the reaction flask substantially shortens the induction period required.

reactant | aluminum | [Al] | Al
reactant | 2-n-butoxyethanol | C(CCC)OCCO | C6H14O2
reactant | N2 2-n-butoxyethanol | 8.0 moles, 944 g | N#N.C(CCC)OCCO
reactant | aluminum | 5 grams | [Al] | Al
product | Aluminum tri(2-n-butoxyethoxide) | C(CCC)OCC[O-].C(CCC)OCC[O-].C(CCC)OCC[O-].[Al+3] | InChI=1S/3C6H13O2.Al/c3*1-2-3-5-8-6-4-7;/h3*2-6H2,1H3;/q3*-1;+3
